US05750372
A transformant (1-1 strain) and its parent strain (TK62 strain) were cultured side by side in a medium containing methanol or glucose as the major carbon source, while monitoring the cell number and intracellular adenylate kinase activities over the course of time (FIG. 5). The medium for methylotrophic yeasts is disclosed by Sakai et al. [Sakai, Y., et al., Appl. Environ. Microbiol., 53, 1812-1818 (1987)]. Methanol or glucose was added at 2%. The method for determining the adenylate kinase activities is disclosed by Brolin et al. [Brolin, S. E., et al., Methods of Enzymatic Analysis, vol. 3, Third Edition, 540-544 (1983)], wherein 1 unit of the enzyme is defined as the enzymatic activity required to yield 2 μmole of ADP at 24° C. in 1 minute. After culturing in the methanol medium for 72 hours, 1-1 strain showed 93.5 U of adenylate kinase activity per mg of cell protein. Compared with the adenylate kinase activity of the parent strain (0.0328 U), the enzymatic activity of the transformant was greater by 2900 times. This increase of the enzymatic activity was never observed in the glucose medium, indicating that the expression of the adenylate kinase was induced by methanol.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
reactant | Brolin | C1=C(N=C(S1)N=C(N)N)CSCC/C(=N/S(=O)(=O)N)/N | C8H15N7O2S3
solvent | Methanol | CO | CH4O
product | ADP | 2 μmole | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
